US04297129
3,5-Bis(trimethylsilyloxy)-1,2,4-triazine (2.5 g) and 2-chlorotetrahydropyran (1.8 g) are dissolved in dimethylformamide (1 ml), and the mixture is stirred overnight at room temperature and concentrated in vacuo. The residue is column-chromatographed over silica gel using a mixture of acetone/n-hexane (1/3) as an eluent. The first major fraction gives 1.0 g (40%) of 2,4-bis(tetrahydro-2-pyranyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 87) (yield, 1.0 g; 36%), the second gives 4-(tetrahydro-2-pyranyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 88) (yield, 0.8 g; 40%) and the third gives 2-(tetrahydro-2-pyranyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine (Compound No. 100) (yield, 0.6 g; 30%). Compound Nos. 87 and 88 melt at 32° C. and 116° C., respectively.

reactant | 3,5-Bis(trimethylsilyloxy)-1,2,4-triazine | 2.5 g | C[Si](OC=1N=NC=C(N1)O[Si](C)(C)C)(C)C | C9H19N3O2Si2
reactant | 2-chlorotetrahydropyran | 1.8 g | ClC1OCCCC1 | C5H9ClO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2,4-bis(tetrahydro-2-pyranyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 1.0 g, 40% | O1C(CCCC1)N1N=CC(N(C1=O)C1OCCCC1)=O | C13H19N3O4
